US07851157B1
The above-obtained 3′,5′-bis-O-(tert-butyldimethylsilyl)-2-N-methylthiocarbamoyldeoxyguanosine (1.0 g, 1.76 mmol) was azeotroped with anhydrous pyridine three times and dissolved in anhydrous pyridine (17 mL). To the resulting solution, diisopropylethylamine (511 μL, 3.16 mmol) and then diphenylcarbamoyl chloride (489 mg, 2.11 mmol) were added. The mixture was stirred at room temperature for 0.5 hours, and then sodium bicarbonate water (5 mL) was added thereto to terminate the reaction. Then, the reaction solution was extracted with ethyl acetate (150 mL)/sodium bicarbonate water (120 mL) once and then with ethyl acetate (150 mL)/brine (100 mL) twice. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (N60: spherical neutral silica gel) with ethyl acetate/40% to 50% hexane to give 3′,5′-bis-O-(tert-butyldimethylsilyl)-6-O-diphenylcarbamoyl-2-N-methylthiocarbamoyldeoxyguanosine (1.09 g, 81%).

reactant | 3′,5′-bis-O-(tert-butyldimethylsilyl)-2-N-methylthiocarbamoyldeoxyguanosine | 1.76 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=NC=2C(=O)NC(NC(NC)=S)=NC12 | C24H44N6O4SSi2
reactant | diisopropylethylamine | 3.16 mmol, 511 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylcarbamoyl chloride | 2.11 mmol, 489 mg | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
reactant | sodium bicarbonate water | 5 mL | O.C([O-])(O)=O.[Na+]
solvent | pyridine | 17 mL | N1=CC=CC=C1 | C5H5N
product | 3′,5′-bis-O-(tert-butyldimethylsilyl)-6-O-diphenylcarbamoyl-2-N-methylthiocarbamoyldeoxyguanosine | 1.09 g, 81% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=NC=2C(OC(N(C3=CC=CC=C3)C3=CC=CC=C3)=O)=NC(NC(NC)=S)=NC12 | C37H53N7O5SSi2
